US08008505B2
58.3 [rac]-2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-N-[2-fluoro-4-(1H-tetrazol-5-yl)-phenyl]-acetamide
To a stirred solution of [rac]-2-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-N-(4-cyano-2-fluoro-phenyl)-2-cyclohexyl-acetamide (110 mg, 0.22 mmol) in dry DMF (3 ml) was added NH4Cl (48.39 mg, 0.88 mmol) and NaN3 (57.2 mg, 0.88 mmol) at room temperature. The reaction mixture was then heated at 120° C. for 12 h. After cooling, TLC shows formation of new spot, filtered the solid material by sintered funnel and washed the solid residue by EtOAc (3×5 ml). Combined organic layers were reduced under pressure at 50° C. and diluted the residue with EtOAc (15 mL). Organic layer was washed with H2O (10 ml), brine (10 ml) and dried over Na2SO4; which was then concentrated under reduced pressure to give crude material (90 mg). Crude product was then purified by column chromatography [SiO2 (230-400 mesh), MeOH:DCM 0:95/5:95] to give the title compound (40 mg, 33.3%) as brown solid. MS: m/e=534.0 [M+H+].

reactant | [rac]-2-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-N-(4-cyano-2-fluoro-phenyl)-2-cyclohexyl-acetamide | 0.22 mmol, 110 mg | ClC1=CC=C(C=C1)N1N=C2CCCCC2=C1C(C(=O)NC1=C(C=C(C=C1)C#N)F)C1CCCCC1 | C28H28ClFN4O
reactant | NH4Cl | 0.88 mmol, 48.39 mg | [NH4+].[Cl-]
reactant | NaN3 | 0.88 mmol, 57.2 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | [rac]-2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-N-[2-fluoro-4-(1H-tetrazol-5-yl)-phenyl]-acetamide | 40 mg, 33.3% | ClC1=CC=C(C=C1)N1N=C2CCCCC2=C1C(C(=O)NC1=C(C=C(C=C1)C1=NN=NN1)F)C1CCCCC1 | C28H29ClFN7O
